US09212180B2
Preparation of 4-(3-(4-(hydroxydiphenylmethyl)piperidin-1-yl)propoxy)benzonitrile (B1)
4-(3-(4-Benzoylpiperidin-1-yl)propoxy)benzonitrile (0.5 g, 1.4 mmol) was dissolved in dry THF (˜15 mL), and a solution of phenylmagnesium bromide (0.9 mL, 2M, 1.8 mmol) was added and the reaction stirred for 6 h. The reaction was quenched (sat. NH4Cl) and extracted into EtOAc (2×). The organic layers were dried over Na2SO4 and the volatiles removed under reduced pressure. The crude residue was purified on silica gel (EtOAc/hexanes) to give 417 mg (70% yield) of title compound Example B1: 1H NMR (400 MHz, CDCl3) δ 7.58 (2H, d, J=8.8 Hz), 7.50 (4H, d, J=7.6), 7.30 (4H, q, J=8), 7.20 (2H, t, J=7.2 Hz), 6.94 (2H, d, J=8.8 Hz), 4.06 (2H, t, J=6 Hz), 3.07 (2H, d, J=11.2 Hz), 2.59 (2H, t, J=7.2 Hz), 2.53-2.46 (1H, m), 2.14-2.01 (4H, m), 1.66-1.55 (4H, m), LC-MS (>98%) m/z=427.0 [M+H]; HRMS=427.2386 [M+H], 100% calculated for C28H31N2O2, 427.2386.

reactant | 4-(3-(4-Benzoylpiperidin-1-yl)propoxy)benzonitrile | 1.4 mmol, 0.5 g | C(C1=CC=CC=C1)(=O)C1CCN(CC1)CCCOC1=CC=C(C#N)C=C1 | C22H24N2O2
reactant | phenylmagnesium bromide | 1.8 mmol, 2M, 0.9 mL | C1(=CC=CC=C1)[Mg]Br
solvent | THF | ˜15 mL | C1CCOC1 | C4H8O
product | 4-(3-(4-(hydroxydiphenylmethyl)piperidin-1-yl)propoxy)benzonitrile | 417 mg, 70% yield | OC(C1CCN(CC1)CCCOC1=CC=C(C#N)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H30N2O2
